US09340527B2
Ethyl 1-((6-(4-isopropylcyclohexyloxy)naphthalen-2-yl)methyl)piperidine-4-carboxylate (120 mg, 0.27 mmol) was dissolved in EtOH (5 mL). NaOH (55 mg, 1.4 mmol, 5 eq) was added in one portion at room temperature. The mixture was stirred at 80° C. for 16 h. Solvent was removed and the residue was dissolved in H2O (3 mL). 1 M aqueous HCl was added to adjust pH=7. The mixture was filtrated to give 1-((6-(4-isopropylcyclohexyloxy)naphthalen-2-yl)methyl)piperidine-4-carboxylic acid as a white solid (85 mg, yield: 61%). ESI-MS (M+1)+: 410.3, HPLC: 100.00%. 1H NMR (400 MHz, DMSO-d6) δ: 10.24 (s, 1H), 7.96 (s, 1H), 7.86-7.84 (m, 2H), 7.62-7.60 (m, 1H), 7.39 (s, 1H), 7.24 (d, J=9.2 Hz, 1H), 4.77-4.76 (m, 1H), 4.42-4.36 (m, 2H), 3.40 (s, 2H), 2.95-2.93 (m, 2H), 2.50-2.49 (m, 1H), 2.03-2.00 (m, 4H), 1.85-1.75 (m, 2H), 1.62-1.34 (m, 7H), 1.19-1.12 (m, 1H), 0.88 (d, J=6.8 Hz, 6H).

reactant | Ethyl 1-((6-(4-isopropylcyclohexyloxy)naphthalen-2-yl)methyl)piperidine-4-carboxylate | 0.27 mmol, 120 mg | C(C)(C)C1CCC(CC1)OC=1C=C2C=CC(=CC2=CC1)CN1CCC(CC1)C(=O)OCC | C28H39NO3
reactant | NaOH | 1.4 mmol, 55 mg, 5 eq | [OH-].[Na+]
solvent | EtOH | 5 mL | CCO | C2H6O
product | 1-((6-(4-isopropylcyclohexyloxy)naphthalen-2-yl)methyl)piperidine-4-carboxylic acid | 85 mg, yield: 61% | C(C)(C)C1CCC(CC1)OC=1C=C2C=CC(=CC2=CC1)CN1CCC(CC1)C(=O)O | C26H35NO3
